US08685975B2
To a solution of 2-(4-bromo-3,5-dimethoxyphenyl)furan (0.20 g, 0.71 mmol) in anhydr THF (10 mL) under argon in an oven-dried flask cooled to −78° C. was added lithium diisopropylamide (2.0 M in THF/heptane/ethylbenzene; 0.43 mL, 0.85 mmol) dropwise. After stirring for 1 hr at −78° C., a solution of 2-(4-(2H-1,2,3-triazol-2-yl)phenyl)-N,2-dimethoxy-N-methylacetamide (0.195 g, 0.71 mmol) in THF (2 mL) was added dropwise. After stirring for 25 min, the mixture was allowed to warm to room temp while stirring for 2 hrs. The reaction was quenched with the addition of saturated aqueous NH4Cl and EtOAc was added. The layers were separated and the organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. Purification by chromatography (30% EtOAc-hexanes) provided 2-(4-(2H-1,2,3-triazol-2-yl)phenyl)-1-(5-(4-bromo-3,5-dimethoxyphenyl)furan-2-yl)-2-methoxyethanone as a yellow solid (0.07 g, 10% yield). MS: m/z 497.9 [M+H]+.

reactant | 2-(4-bromo-3,5-dimethoxyphenyl)furan | 0.71 mmol, 0.20 g | BrC1=C(C=C(C=C1OC)C=1OC=CC1)OC | C12H11BrO3
reactant | lithium diisopropylamide | 0.85 mmol, 2.0 M, 0.43 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-(4-(2H-1,2,3-triazol-2-yl)phenyl)-N,2-dimethoxy-N-methylacetamide | 0.71 mmol, 0.195 g | N=1N(N=CC1)C1=CC=C(C=C1)C(C(=O)N(C)OC)OC | C13H16N4O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(4-(2H-1,2,3-triazol-2-yl)phenyl)-1-(5-(4-bromo-3,5-dimethoxyphenyl)furan-2-yl)-2-methoxyethanone | 0.07 g, 10% yield | N=1N(N=CC1)C1=CC=C(C=C1)C(C(=O)C=1OC(=CC1)C1=CC(=C(C(=C1)OC)Br)OC)OC | C23H20BrN3O5
